US04440788
S-Methyl-N-t-butyloxycarbonyl-L-cysteine (6.63 g, 28.2 mmole) was dissolved in 70 ml of tetrahydrofuran and 4.18 ml (30 mmole) of triethylamine was added to the solution. To the resulting mixture was added dropwise 3.94 ml (30 mmole) of isobutyl chloroformate under cooling at -15° C. and the mixture was stirred at that temperature for 20 minutes. After cooling to -40° C., 3.9 g (60 mmole) of aqueous 70% ethylamine solution was added in a portion and the mixture was stirred for 3 hours under ice cooling. Thereafter, 30 ml of aqueous 5% sodium bicarbonate was added and the organic layer was separated. The aqueous layer was then extracted with 50 ml of ethyl acetate and the combined organic layers were washed successively with 30 ml of aqueous 5% sodium bicarbonate, 30 ml of aqueous saturated sodium chloride, 30 ml of aqueous 10% citric acid, 30 ml of aqueous 5% sodium bicarbonate and 30 ml of aqueous saturated sodium chloride and dried over anhydrous magnesium sulfate. The solution was then concentrated in vacuo, resulting in formation of crystals, which were collected and recrystallized from ethyl acetate-n-hexane to give 5.17 g of S-methyl-N-butyloxycarbonyl-L-cysteine ethylamide (70% yield), m.p. 106°-7° C.

reactant | S-Methyl-N-t-butyloxycarbonyl-L-cysteine | 28.2 mmole, 6.63 g | CSC[C@H](NC(=O)OC(C)(C)C)C(=O)O | C9H17NO4S
reactant | triethylamine | 30 mmole, 4.18 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 30 mmole, 3.94 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | ethylamine | C(C)N | C2H7N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | S-methyl-N-butyloxycarbonyl-L-cysteine ethylamide | 5.17 g, 70% yield | C(C)NC([C@@H](NC(=O)OCCCC)CSC)=O | C11H22N2O3S
